datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:63]2[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1=CC(C)=C([N:63]2[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]3=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]3)=[O:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([N:10]3[C:11](C)=[NH+:12][CH:62]=[CH:61]3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CC[NH:10]CC1.CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23]>>CC(C)[O:33][C:22](=[N:21][N:20]([NH+:10]1CCCCC1)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"C1C[N:72]([C:61]([S-:10])=[S:62])CCO1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>C[C:22]1=[C:21]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCOCC2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10=20;20,21=21,22;22,23=23"
"C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1.F[B-](F)(F)[C:11]1=[CH:10][O:14][CH:13]=[CH:12]1>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.F[B-](F)(F)[C:11]1=[CH:12][CH:13]=[O+:14][CH:10]1[F:20] 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](C1=CC=C(OC)C=C1)=[NH+:12][C:63](C)=[O:64])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][P:61]([CH:10]=[C:11]=[N-:12])(=[O:62])[O:82]CC.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC[O:72][P:61]([CH:10]([C:11]#[N:12])[CH2:20][C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])(=[O:62])[O:82]CC 10,11=10,20;12=11,12"
"C1COC2(CC[C:20](=[O:21])CC2)O1.OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[C:20]1([O-:21])CCC2(CC1)OCCO2 10=20;20,21=21"
"CC(C)[C:11](C)=[CH2:10].C[C:20]1=[CH:21][C:22](=[O:23])CCC1>>CC(C)[C+:11](C)[CH2:10][C:20]1(C)CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[N:12]1CCOCC1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C)[CH:11]=[N+:12]2CCOCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>CN(C)C1=CC=C([CH:20]([CH:10]([C:11](C)=[O:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([CH2:10][CH:11]=[N+:12]1[C:63]2=[C:64](C=CC=C2)[C:74]2=[C:73]1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:62]/[C:11](=[CH:10]/[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[O-:12].C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12"
